US08304556B2
B-12) (3-Methanesulfonyl-phenyl)-hydrazine
B-012 is prepared analogously to B-05 starting from 3-methylsulfonylaniline hydrochloride (2.50 g, 11.4 mmol), sodium nitrite (1.18 g, 17.1 mmol) and tin(II)chloride dihydrate (14.9 g, 66.0 mmol). The product is purified by precipitation from ethyl acetate with cyclohexane. Yield: 1.08 g.

reactant | 3-methylsulfonylaniline hydrochloride | 11.4 mmol, 2.50 g | Cl.CS(=O)(=O)C=1C=C(N)C=CC1
reactant | sodium nitrite | 17.1 mmol, 1.18 g | N(=O)[O-].[Na+]
reactant | tin(II)chloride dihydrate | 66.0 mmol, 14.9 g | O.O.[Sn](Cl)Cl
product | (3-Methanesulfonyl-phenyl)-hydrazine | CS(=O)(=O)C=1C=C(C=CC1)NN | C7H10N2O2S
